US07960401B2
A mixture of 4-cyano-3′-fluoro-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester (1 g) and lithium tri-tert-butoxyaluminohydride (12.7 ml), 1M solution in THF) in 1-4-dioxane (15 ml) was stirred at 130° C. (sealed tube) for 1 hr. After cooling, 1 N NaOH (100 ml) and H2O (100 ml) were added slowly at 0° C. Ethyl acetate was added to the mixture. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers were washed with saturated sodium bicarbonate, dried (magnesium sulfate), filtered and concentrated in vacuo. The crude product was purified by chromatography [SiO2; hexane-ethyl acetate (7:3)] to give 230 mg g (24%) of 6-aza-spiro[indoline-3,4′-piperidine]-1′-carboxylic acid tert-butylester; MS (ES+) 290 (M+H+).

reactant | 4-cyano-3′-fluoro-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=NC=C1)F)C#N | C16H20FN3O2
reactant | lithium tri-tert-butoxyaluminohydride | 12.7 ml | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | NaOH | 1 N, 100 ml | [OH-].[Na+]
reactant | H2O | 100 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | 1-4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-aza-spiro[indoline-3,4′-piperidine]-1′-carboxylic acid tert-butylester | 24% | C(C)(C)(C)OC(=O)N1CCC2(CC1)CNC1=CN=CC=C12 | C16H23N3O2
